US09359375B2
A solution of 2-bromo-4,5-difluorobenzonitrile (100 mg, 0.458 mmol), ((R)-3-(4-(1H-imidazol-1-yl)phenyl)-2-aminopropanamide (100 mg, 0.434 mmol) and DIEA (0.100 mL, 0.575 mmol) in DMSO (3 mL) was stirred at 120 C for 18 h. The mixture was purified by HPLC to give (R)-3-(4-(1H-imidazol-1-yl)phenyl)-2-(5-bromo-4-cyano-2-fluorophenylamino)propanamide (59 mg).

reactant | 2-bromo-4,5-difluorobenzonitrile | 0.458 mmol, 100 mg | BrC1=C(C#N)C=C(C(=C1)F)F | C7H2BrF2N
reactant | (R)-3-(4-(1H-imidazol-1-yl)phenyl)-2-aminopropanamide | 0.434 mmol, 100 mg | N1(C=NC=C1)C1=CC=C(C=C1)C[C@H](C(=O)N)N | C12H14N4O
reactant | DIEA | 0.575 mmol, 0.100 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
product | (R)-3-(4-(1H-imidazol-1-yl)phenyl)-2-(5-bromo-4-cyano-2-fluorophenylamino)propanamide | 59 mg | N1(C=NC=C1)C1=CC=C(C=C1)C[C@H](C(=O)N)NC1=C(C=C(C(=C1)Br)C#N)F | C19H15BrFN5O
